US07678801B2
N-(cyclopropylmethyl)-3-[8-(2,6-difluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylbenzamide
N-(cyclopropylmethyl)-3-[8-(2,6-difluorophenyl)-2-(methylthio)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylbenzamide (13.5 mg, 0.027 mmol), was dissolved in anhydrous methanol (2 mL) and was added to a tube containing nickel chloride hexahydrate (2 mg). The tube was placed under an atmosphere of nitrogen and cooled using a dry-ice/acetone bath to about −15° C. Sodium borohydride (2 mg) was then added (nitrogen removed during addition and then replaced) and the solution turned black. The solution was stirred in the dry ice/acetone bath for 1.5 h. 1 N HCl (4 mL) was added and the solution was allowed to warm to room temperature and stirred under an air atmosphere for about 2 hours. Dichloromethane (2 mL) was added to the solution and it was stirred vigorously for 10 min. The solution was filtered through a hydrophobic frit packed with celite and was washed with further dichloromethane (2 mL×2). The filtrate was concentrated and purified by HPLC to give the title product (1 mg, 8.2%). LC-MS m/z 447 (M+H)+, 2.98 min (ret time). 1H-NMR (d6-DMSO) δ 0.22 (m, 2H), 0.42 (m, 2H), 1.01 (br s, 1H), 2.23 (s, 3H), 3.14 (br s, 2H), 6.87 (m, 1H), 7.43 (m, 2H), 7.65 (m, 2H), 7.95 (m, 2H), 8.60 (m, 1H), 9.07 (s, 1H).

reactant | N-(cyclopropylmethyl)-3-[8-(2,6-difluorophenyl)-2-(methylthio)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylbenzamide | 0.027 mmol, 13.5 mg | C1(CC1)CNC(C1=CC(=C(C=C1)C)C=1C2=C(N=C(N1)SC)N(C(C=C2)=O)C2=C(C=CC=C2F)F)=O | C26H22F2N4O2S
reactant | Sodium borohydride | 2 mg | [BH4-].[Na+]
solvent | methanol | 2 mL | CO | CH4O
catalyst | nickel chloride hexahydrate | 2 mg | O.O.O.O.O.O.[Ni](Cl)Cl
product | N-(cyclopropylmethyl)-3-[8-(2,6-difluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylbenzamide | 1 mg, 8.2% | C1(CC1)CNC(C1=CC(=C(C=C1)C)C=1C2=C(N=CN1)N(C(C=C2)=O)C2=C(C=CC=C2F)F)=O | C25H20F2N4O2
